US05252580
(4) 2,9-Diethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole
NaBH4 (1.08 g) was added under ice-cooling to a solution of 2-ethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole (1.16 g) in 40 ml of acetic acid. After stirring the solution at room temperature for 4 hrs, additional NaBH4 (0.54 g) was added and the mixture was stirred for 3 hrs. After removal of acetic acid by evaporation, the residue was neutralized with ammonia, extracted with ethyl acetate, washed with brine and dried over magnesium sulfate. The solvent was evaporated off, thereby affording 1.26 g of the title compound as a pale yellow oil.

reactant | NaBH4 | 1.08 g | [BH4-].[Na+]
reactant | 2-ethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole | 1.16 g | C(C)N1CC2NC3=CC=CC=C3C2CC1 | C13H18N2
reactant | NaBH4 | 0.54 g | [BH4-].[Na+]
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2,9-Diethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole | 1.26 g | C(C)N1CC2N(C3=CC=CC=C3C2CC1)CC | C15H22N2
